US06589978B2
b) (2RS,5RS)-1-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-1H-[1,2,4]triazole
To a stirred solution of 1,2,4-triazol (105 mg, 1.52 mmol) in DMF (15 ml) was added at 0° C. sodium hydride (61 mg, 1.52 mmol; 60%-disp.). The mixture was stirred at RT for 1 h, cooled to 0° C. and (2RS,5RS)-2-(3-chloro-propyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine (0.50 g, 1.26 mmol) was added. The reaction mixture was stirred at RT for 3 h and at 50° C. for 16 h, poured into ice/water (70 ml) and extracted with dichloromethane (2×100 ml). The combined organic layers were washed with water (70 ml) and brine (70 ml), dried (MgSO4) and evaporated. The crude product was purified by column chromatography on silica gel (ethyl acetate) to yield the title compound (0.47 g, yield 87%) as a colorless oil, MS: m/e=429.5 (M+H+).

reactant | 1,2,4-triazol | 1.52 mmol, 105 mg | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 1.52 mmol, 61 mg | [H-].[Na+]
reactant | (2RS,5RS)-2-(3-chloro-propyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | 1.26 mmol, 0.50 g | ClCCCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C20H23ClFNO2S
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (2RS,5RS)-1-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-1H-[1,2,4]triazole | 0.47 g, yield 87% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCN1N=CN=C1 | C22H25FN4O2S
